US07855294B2
At 0° C. 1.04 kg of metachloroperbenzoic acid was added to chloroform (6 L) solution of 689 g of the compound obtained in the above, and stirred at room temperature for 3 hours. 1:1 mixed solution of aqueous saturated sodium hydrogencarbonate solution and aqueous saturated sodium sulfite solution was added to the reaction liquid, and extracted with chloroform. The organic layer was washed with aqueous saturated sodium hydrogencarbonate solution and aqueous saturated sodium chloride solution, and dried with anhydrous sodium sulfate, and the solvent was evaporated off under reduced pressure to obtain ethyl 5,6,7,8-tetrahydroquinoline-6-carboxylate 1-oxide. The obtained compound was dissolved in 2 L of acetic anhydride, and stirred at 130° C. for 1 hour. The reaction liquid was distilled under reduced pressure, and diluted with aqueous saturated sodium hydrogencarbonate solution, and extracted with chloroform. The solvent was evaporated off under reduced pressure to obtain a mixture of ethyl (6RS,8SR)-8-acetoxy-5,6,7,8-tetrahydroquinoline-6-carboxylate and ethyl (6RS,8RS)-8-acetoxy-5,6,7,8-tetrahydroquinoline-6-carboxylate. At 0° C., ethanol (3.36 L) solution of 77.2 g of sodium was added to tetrahydrofuran (3 L) solution of the resulting mixture, and stirred at 0° C. for 1 hour. Aqueous saturated ammonium chloride solution was added to the reaction liquid, then extracted with chloroform, and the organic layer was dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain 336 g of ethyl (6RS,8SR)-8-hydroxy-5,6,7,8-tetrahydroquinoline-6-carboxylate as a brown oily substance. This compound contained impurities.

reactant | ethyl (6RS,8SR)-8-acetoxy-5,6,7,8-tetrahydroquinoline-6-carboxylate | C(C)(=O)OC1CC(CC=2C=CC=NC12)C(=O)OCC | C14H17NO4
reactant | ethanol | 3.36 L | C(C)O | C2H6O
reactant | sodium | 77.2 g | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetic anhydride | 2 L | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
product | ethyl (6RS,8SR)-8-hydroxy-5,6,7,8-tetrahydroquinoline-6-carboxylate | 336 g | OC1CC(CC=2C=CC=NC12)C(=O)OCC | C12H15NO3
